US04325959
Preparation of methyl 4-((4-pyridinylthio)methyl)benzoate.
A mixture containing 11.0 grams of methyl-p-(bromomethyl)toluate (0.048 mole), 5.3 grams of 4-mercaptopyridine (0.048 mole), 25 ml of triethylamine and 200 ml of toluene was refluxed for 16 hours and then cooled to room temperature. The reaction mixture was washed twice with 300 ml of water. The toluene layer was dried over anhydrous sodium sulfate and then concentrated to give a dark red oil which solidified upon cooling.

reactant | methyl-p-(bromomethyl)toluate | 0.048 mole, 11.0 grams | COC(=O)C=1C(=CC=C(C1)CBr)C | C10H11BrO2
reactant | 4-mercaptopyridine | 0.048 mole, 5.3 grams | SC1=CC=NC=C1 | C5H5NS
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-((4-pyridinylthio)methyl)benzoate | N1=CC=C(C=C1)SCC1=CC=C(C(=O)OC)C=C1 | C14H13NO2S
